Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Aphasia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ Stroke Scale - Total [1]

1a. Level of Consciousness -0
1b. LOC Questions -0
1c. LOC Commands -0
2. Best Gaze -0
3. Visual Fields -0
4. Facial Palsy -0
5a. Motor arm, left -0
5b. Motor arm, right -0
6a. Motor leg, left -0
6b. Motor leg, right -0
7. Limb Ataxia -0
8. Sensory -0
9. Language -1
10. Dysarthria -0
11. Extinction and Neglect -0

HPI: 
Mr. ___ is a ___ yo man with no significant PMHx who presents
with acute onset aphasia, for which code stroke was activated. 

Mr. ___ was at the ___ with his family. They
spoke with him at approx 1550, and 10 min later (during which
time they had been wardering a gallery looking at paintings) he
spoke with them again and his speech was largely neologisms. No
slurring of the words. He was able to follow their commands, 
such
as 'sit down' or 'say that again'. After a few minutes his 
speech
begain to contain more words that were real words, but were not
appropriate to the situation, and fewer neologisms. For example,
they asked him to describe a painting of a girl in a park, and 
he
said "Well, there's a volunteer". He seemed to have word finding
difficutly as well. They note that he was able to say
short/common phrases such as 'yes' or 'I'm fine' appropriately,
but not more complex statements. 
EMS was called and while he was in the ambulance he was noted to
make fewer mistakes, though still wording finding difficulty. 
Mr. ___ remembers having difficulty finding the right words, 
and
states this is improving. His daughter notes he is typically a
very articulate man and says his speech has not returned to
baseline. 
 
Past Medical History:
osteoarthritis
 
Social History:
___ Force veteran of the ___ War. 
Former ___ year x 0.5 ppd smoker, quit in the mid ___. Occ 
EtOH,
no illicits. 

- Modified Rankin Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
Mother with multiple TIAs
Sister with ___ Disease
Father died of pancreatic cancer in his early ___

 
Physical Exam:
====================
ADMISSION PHYSICAL EXAM
====================
Vitals:  T: 97.3 HR: 70 BP: 129/59 RR: 14 SaO2: 100% RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, 1+ pedal edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive to exam. Speech with
occasional pauses, but reaches >7 consecutive words. Occasional
paraphasic errors. For example, when asked to describe their 
trip
to the museum, states he went to the "___ of farm... I'd say
modern art but it really wasn't modern art", and when asked to
describe what he saw, says "I'm trying to place the young fellow
who painted the ballerinas". Frequent pauses for word-finding.
Able to name all objects on the stroke card. Repetition intact.
Comprehension intact to cross-body commands. Normal prosody. 

-Cranial Nerves: PERRL 3->2. VFF to confrontation. EOMI without
nystagmus. Facial sensation intact to light touch. Face 
symmetric
at rest and with activation. Hearing intact to conversation.
Palate elevates symmetrically. ___ strength in trapezii
bilaterally. Tongue protrudes in midline and moves briskly to
each side. No dysarthria.

- Motor:  Normal bulk and tone. Subtle R cupping without drift. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc        
L  5    ___   ___  5   5    5  5                
R  5    ___   ___  5   5    5  5                  

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  3  2    2    2   0                     
 R  3  2    2    2   0                     
Plantar response was flexor bilaterally.

-Sensory: Intact to LT, PP throughout. Proprioception intact to
only large excursions bilateral toes. No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Romberg with sway without stepoff. 
.
.
=========================
DISCHARGE PHYSICAL EXAM
=========================

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive to exam. Normal fluent 
speech without any paraphasic errors. Names high and low 
frequency objects. Repetition intact.
Comprehension intact to cross-body commands. Normal prosody. 

-Cranial Nerves: PERRL 3->2. VFF to confrontation. EOMI without
nystagmus. Facial sensation intact to light touch. Face 
symmetric
at rest and with activation. Hearing intact to conversation.
Palate elevates symmetrically. Tongue protrudes in midline. No 
dysarthria.

- Motor:  Normal bulk and tone. Subtle R cupping without drift. 
  Delt Bic Tri WrE FFl FE IP Quad Ham TA Gastroc        
L  5    ___   ___   5    5  5     5           
R  5    ___   ___   5    5  5     5            

-DTRs:                  
Plantar response complicated by withdrawal but appeared upgoing 
on the left, and mute on the right. 

-Sensory: Intact to LT. No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally.

 
Pertinent Results:
======================
RELEVANT LABS
====================

___ 05:07PM BLOOD WBC-6.8 RBC-4.31* Hgb-13.4* Hct-41.3 
MCV-96 MCH-31.1 MCHC-32.4 RDW-12.8 RDWSD-45.0 Plt ___
___ 05:07PM BLOOD ___ PTT-28.2 ___
___ 06:05AM BLOOD Glucose-137* UreaN-18 Creat-1.1 Na-145 
K-5.1 Cl-106 HCO3-23 AnGap-16
___ 05:07PM BLOOD ALT-17 AST-31 AlkPhos-66 TotBili-0.3
___ 05:07PM BLOOD cTropnT-<0.01
___ 05:07PM BLOOD Albumin-4.0 Calcium-8.6 Phos-3.0 Mg-2.3
___ 06:05AM BLOOD Albumin-3.5 Calcium-8.7 Phos-3.0 Mg-2.4 
Cholest-149
___ 06:05AM BLOOD %HbA1c-6.4* eAG-137*
___ 06:05AM BLOOD Triglyc-60 HDL-39* CHOL/HD-3.8 LDLcalc-98
___ 06:05AM BLOOD TSH-2.9
___ 05:07PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:16PM BLOOD Glucose-85 Na-140 K-4.4 Cl-105 calHCO3-27
___ 06:59PM URINE Color-Straw Appear-Clear Sp ___
___ 06:59PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-150* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 06:59PM URINE RBC-<1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 06:59PM URINE Mucous-RARE*
___ 06:59PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
.
URINE CULTURE: PENDING 
.
============
CTA HEAD AND NECK ___
===============
PASTE FINAL READ HERE - HAS INTRACRANIAL ATHEROSCLEROSIS LEFT 
MORE THAN RIGHT

======
MRI BRAIN W/O CONTRAST ___
=======
  
FINDINGS:  
  
There is mild confluent periventricular T2/FLAIR white matter 
increased signal 
that is nonspecific but can be seen in the setting of chronic 
small vessel 
disease.  There is no evidence of hemorrhage, edema, masses, 
mass effect, 
midline shift or infarction. 
  
The major intracranial vascular flow voids are maintained.  
There is 
prominence of the ventricles and cerebral sulci, which can be 
seen with age 
related involutional changes.  There is mild mucosal thickening 
within the 
left sphenoid sinus.  Trace fluid is present within the right 
mastoid air 
cells.  The orbits are normal. 
  
IMPRESSION: 
  
  
1. No acute intracranial abnormality. 
2. Mild confluent periventricular T2/FLAIR white matter 
increased signal is 
nonspecific but can be seen in the setting of chronic small 
vessel disease. 
3. Mild generalized parenchymal volume loss is likely age 
related. 
4. Mild inflammatory changes of the left sphenoid sinus. 

.
.
================
ECHOCARDIOGRAM ___
================
Referring Physician      ___   
___ of Neurology
___  Status: Inpatient DOB: ___ 
Age (years): ___ M  Hgt (in): 60  
BP (mm Hg): 130/72  Wgt (lb): 178  
HR (bpm): 55  BSA (m2): 1.78 m2  
Indication: Cerebrovascular event/TIA.  
Diagnosis: I34.0, I36.8, I35.9, G45.9 
___ Information   
Date/Time: ___ at 12:13    ___ MD: ___, 
MD 
___ Type: Portable TTE (Complete) Sonographer: ___, 
___, ___ 
Doppler: Full Doppler and color Doppler ___ Location: ___ Floor 
Contrast: None Tech Quality: Suboptimal 
    Machine: ___-1 
Echocardiographic Measurements   

Results  

Measurements  

Normal Range  

Left Atrium - Long Axis Dimension:   3.7 cm   <= 4.0 cm   
Left Atrium - Four Chamber Length:   4.5 cm   <= 5.2 cm   
Left Atrium - Volume:   *79 ml   < 40 ml   
Left Atrium - LA Volume/BSA:   *44 ml/m2   <= 34 ml/m2   

Left Atrium - Peak Pulm Vein S:   0.6 m/s       
Left Atrium - Peak Pulm Vein D:   0.4 m/s       
Left Atrium - Peak Pulm Vein A:   0.3 m/s   < 0.4 m/s   
Right Atrium - Four Chamber Length:   *5.3 cm   <= 5.0 cm   
Left Ventricle - Septal Wall Thickness:   1.1 cm   0.6 - 1.1 cm  
 
Left Ventricle - Inferolateral Thickness:   1.1 cm   0.6 - 1.1 
cm   
Left Ventricle - Diastolic Dimension:   5.3 cm   <= 5.6 cm   
Left Ventricle - Systolic Dimension:   3.9 cm       
Left Ventricle - Fractional Shortening:   *0.26   >= 0.29   
Left Ventricle - Ejection Fraction:   45%   >= 55%   
Left Ventricle - Stroke Volume:   83 ml/beat       
Left Ventricle - Cardiac Output:   4.57 L/min       
Left Ventricle - Cardiac Index:   2.57   >= 2.0 L/min/M2   
Left Ventricle - Lateral Peak E':   *0.07 m/s   > 0.08 m/s   
Left Ventricle - Septal Peak E':   *0.07 m/s   > 0.08 m/s   
Left Ventricle - Ratio E/E':   10   < 13   
Right Ventricle - Diastolic Diameter:   2.5 cm   <= 4.0 cm   
Aorta - Sinus Level:   3.4 cm   <= 3.6 cm   
Aorta - Ascending:   3.3 cm   <= 3.4 cm   
Aorta - Arch:   2.4 cm   <= 3.0 cm   
Aortic Valve - Peak Velocity:   1.2 m/sec   <= 2.0 m/sec   
Aortic Valve - LVOT VTI:   20       
Aortic Valve - LVOT diam:   2.3 cm       
Aortic Valve - Pressure Half Time:   581 ms       
Mitral Valve - E Wave:   0.7 m/sec       
Mitral Valve - A Wave:   0.7 m/sec       
Mitral Valve - E/A ratio:   1.00       
Mitral Valve - E Wave deceleration time:   201 ms   140-250 ms   

TR Gradient (+ RA = PASP):   25 mm Hg   <= 25 mm Hg   
  
Findings   
LEFT ATRIUM: Moderately increased LA volume index. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Mildly dilated RA. No ASD by 2D 
or color Doppler. 

LEFT VENTRICLE: Normal LV wall thickness. Normal LV cavity size. 
Suboptimal technical quality, a focal LV wall motion abnormality 
cannot be fully excluded. Mildly depressed LVEF. No resting LVOT 
gradient. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal diameter of aorta at the sinus, ascending and arch 
levels. 

AORTIC VALVE: ?# aortic valve leaflets. Mildly thickened aortic 
valve leaflets. No AS. Mild (1+) AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild 
mitral annular calcification. Mild thickening of mitral valve 
chordae. Calcified tips of papillary muscles. No MS. ___ (1+) 
MR. 

___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. Normal tricuspid valve supporting structures. No TS. Normal 
PA systolic pressure. 

PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not well seen. 

PERICARDIUM: No pericardial effusion. 

GENERAL COMMENTS: Suboptimal image quality - poor echo windows. 
Suboptimal image quality - body habitus.   
Conclusions   
 The left atrial volume index is moderately increased. No atrial 
septal defect is seen by 2D or color Doppler. Left ventricular 
wall thicknesses are normal. The left ventricular cavity size is 
normal. Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is mildly depressed (LVEF = 45 %). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The number of aortic valve leaflets cannot be 
determined. The aortic valve leaflets are mildly thickened (?#). 
There is no aortic valve stenosis. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.   
.
.

 
Brief Hospital Course:
___ with no significant PMH here with transient acute onset 
fluent aphasia consistent with TIA. Initially per daughter had 
many neologisms and then when seen by neurology, had word 
finding difficulty and many paraphasic errors with preserved 
comprehension. 
By the time of discharge, his exam was normal with no language 
impairment. 
.
His MRI was negative for stroke and was otherwise significant 
for some chronic small vessel disease. 
.
His CTA Head and Neck showed some intracranial atherosclerosis 
left more than right raising the possibility that this was 
related to his TIA. 
.
His risk factors were checked and were significant for: HbA1C 
6.4, TSH 2.9, Chol 149, LDL 98, HDL 39. 
.
Therefore, ASA and Plavix were started to continue for 3 months, 
at which point, he should stop Plavix and continue aspirin 81mg 
alone thereafter. 
.
His echocardiogram showed moderately increased left atrial 
volume with no ASD or signs of intracardiac clot, EF 45%. There 
was also mild AR, MR, and mitral valve thickening.
.
Therefore, he will need a 30 day cardiac monitor to evaluate for 
atrial fibrillation, especially as he says he was told in the 
past that he had an irregular heart rate that was asymptomatic. 
.
He had no neurologic deficits at the time of evaluation the 
morning after admission, so physical therapy and occupational 
therapy were considered but were not needed. 
.
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - ___ Not confirmed () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 98 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. meloxicam 10 mg oral DAILY:PRN pain 
3. Ascorbic Acid ___ mg PO DAILY 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Calcium Carbonate 500 mg PO DAILY 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2 
2.  Ascorbic Acid ___ mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Calcium Carbonate 500 mg PO DAILY  
5.  Ferrous Sulfate 325 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were hospitalized due to symptoms of speech difficulty 
resulting from an TRANSIENT ISCHEMIC ATTACK, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot and then opens back up again leaving no 
permanent damage. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

TIA can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:

- Borderline for Diabetes - HBA1C 6.4%
- Intracranial atherosclerosis 

We are changing your medications as follows:
- Starting Plavix (Clopidogrel) 75mg daily (This should be taken 
for 3 months and then stopped). 

You told us that you had a history of irregular heart rate many 
years ago which was never evaluated. Therefore, you need to be 
monitored by a cardiac monitor for 30 days to evaluate for 
atrial fibrillation that could have caused your transient 
ischemic attack and increase your risk for stroke. This should 
be set up by your primary care provider or neurologist. 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,

Your ___ Neurology Team

 
Followup Instructions:
___